US05710317
The crude reaction gas was bubbled at 10° C. in a 2 l plastic bottle charged with 219 g (3.0 mols) of diethylamine, 303 g (3.0 mols) of triethylamine and 300 g of methylene chloride. Then, 365 g (2.5 mols) of 1-ethoxy-1,1,2,2-tetrafluoroethane was fed over a period of about 75 minutes. Then, nitrogen was supplied to the gas phase reactor at a rate of 200 cc/min for 20 minutes. The crude reaction solution was washed with 2 l of water, and the aqueous phase was extracted with 300 g of methylene chloride. The organic layers were put together and distilled to obtain 353 g (yield: 93.5%) of N,N-diethyl difluoroacetic acid amide (boiling point: 64° C./11 torr) having a purity of at least 99.5%.

reactant | diethylamine | 3.0 mols, 219 g | C(C)NCC | C4H11N
reactant | triethylamine | 3.0 mols, 303 g | C(C)N(CC)CC | C6H15N
reactant | 1-ethoxy-1,1,2,2-tetrafluoroethane | 2.5 mols, 365 g | C(C)OC(C(F)F)(F)F | C4H6F4O
solvent | methylene chloride | 300 g | C(Cl)Cl | CH2Cl2
product | N,N-diethyl difluoroacetic acid amide | 353 g, yield: 93.5% | C(C)N(C(C(F)F)=O)CC | C6H11F2NO
